US08049015B2
4-Bromo-3-bromomethyl-benzoic acid ethyl ester (2.95 g, 9.2 mmol) and ethyl-carbamic acid benzyl ester (3.30 g, 18.4 mmol) were combined in DMF (100 mL) and cooled to 0° C. Sodium hydride (60% in mineral oil; 0.772 g, 19.3 mmol) was added slowly, and the reaction was stirred at room temperature for 10 minutes. The mixture was quenched with H2O and 1N aqueous HCl (20 mL), and then extracted with 1:1 EtOAc:hexanes three times. The organic layer was washed with brine, and then dried and concentrated. The residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give 3-[(N-benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-bromo-benzoic acid ethyl ester, as well as the hydrolyzed product, which was combined with the product from the next step.

reactant | 4-Bromo-3-bromomethyl-benzoic acid ethyl ester | 9.2 mmol, 2.95 g | C(C)OC(C1=CC(=C(C=C1)Br)CBr)=O | C10H10Br2O2
reactant | ethyl-carbamic acid benzyl ester | 18.4 mmol, 3.30 g | C(C1=CC=CC=C1)OC(NCC)=O | C10H13NO2
reactant | Sodium hydride | 19.3 mmol, 0.772 g | [H-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-[(N-benzyloxycarbonyl-N-ethyl-amino)-methyl]-4-bromo-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)Br)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C20H22BrNO4
